US09085555B2
(3S,5S)-1-(1-Carbamoyl-1H-indol-3-ylcarbamoyl)-5-(3-chloro-2,6-difluoro-benzylcarbamoyl)-pyrrolidine-3-carboxylic acid
To a solution of (3S,5S)-1-(1-carbamoyl-1H-indol-3-ylcarbamoyl)-5-(3-chloro-2,6-difluoro-benzylcarbamoyl)-pyrrolidine-3-carboxylic acid methyl ester Example 353 (50 mg, 0.094 mmol) in THF (0.3 mL)/Et2O (3 mL)/H2O (0.3 mL) was added potassium trimethylsilanolate (19.5 mg, 0.2 mmol) and the resulting suspension was stirred at RT for 1.30 h. The reaction was diluted with EtOAc (15 mL) and H2O (3 mL), and the biphasic mixture was vigorously stirred for 5 min. The layers were separated, and the aqueous one was extracted with EtOAc (×2). The aqueous layer was acidified by addition of 1N HCl and extracted with EtOAc, the combined organic layers were dried over Na2SO4, filtered and concentrated. The crude material was purified by preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 19×50 mm, eluent: 20% to 100% CH3CN in H2O in 25 min, CH3CN and H2O containing 0.1% HCOOH, flow: 20 mL/min) to give, after lyophilization of the purified fractions the title compound as a white solid. MS (LC-MS): 518.4 [M−H]−, 520.1 [M+H]+, 1039.3 [2M+H]+; tR (HPLC conditions f): 1.70 min.

reactant | (3S,5S)-1-(1-carbamoyl-1H-indol-3-ylcarbamoyl)-5-(3-chloro-2,6-difluoro-benzylcarbamoyl)-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)[C@@H]1CN([C@@H](C1)C(NCC1=C(C(=CC=C1F)Cl)F)=O)C(NC1=CN(C2=CC=CC=C12)C(N)=O)=O | C24H22ClF2N5O5
reactant | Et2O | 3 mL | CCOCC | C4H10O
reactant | potassium trimethylsilanolate | 0.2 mmol, 19.5 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 3 mL | O | H2O
solvent | H2O | 0.3 mL | O | H2O
product | (3S,5S)-1-(1-Carbamoyl-1H-indol-3-ylcarbamoyl)-5-(3-chloro-2,6-difluoro-benzylcarbamoyl)-pyrrolidine-3-carboxylic acid | C(N)(=O)N1C=C(C2=CC=CC=C12)NC(=O)N1C[C@H](C[C@H]1C(NCC1=C(C(=CC=C1F)Cl)F)=O)C(=O)O | C23H20ClF2N5O5
